US07544806B2
1-(Piperidine-4-yl)-2-ethyl-5-fluoro-1H-indole
A solution of 1-(1-benzyl-piperidine-4-yl)-2-ethyl-5-fluoro-1H-indole (11.9 g) and acetic acid (4.1 ml) in methanol (250 ml) was hydrogenated for 8 h (50° C./1013 mbar). The mixture was then filtered and concentrated in vacuo. CH2Cl2 (250 ml), NaHCO3 (100 ml) and water (300 ml) were added and the mixture stirred for 10 min. The organic layer was extracted with CHCl3 and this was dried (MgSO4) and concentrated in vacuo. 6.4 g of pure product (73%) as colourless crystals was obtained by recrystallisation from ether/petroleum ether.

reactant | 1-(1-benzyl-piperidine-4-yl)-2-ethyl-5-fluoro-1H-indole | 11.9 g | C(C1=CC=CC=C1)N1CCC(CC1)N1C(=CC2=CC(=CC=C12)F)CC | C22H25FN2
reactant | acetic acid | 4.1 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 250 ml | CO | CH4O
product | 1-(Piperidine-4-yl)-2-ethyl-5-fluoro-1H-indole | 6.4 g, 73% | N1CCC(CC1)N1C(=CC2=CC(=CC=C12)F)CC | C15H19FN2
